US07683160B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methoxymethyl-cyclopent-1-yloxy)-benzyl]-benzene
To a solution of 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(1-methoxymethyl-cyclopent-1-yloxy)-benzyl]-benzene (0.39 g) in tetrahydrofuran (3 mL) is added pyrrolidine (0.22 mL). The solution is stirred at ambient temperature for 16 h. After dilution with ethyl acetate, the resulting solution is washed with aqueous hydrochloric acid (1 mol/l), dried (Na2SO4) and the solvent is removed under reduced pressure. The residue is purified by HPLC on reversed phase (YMC C18; water/acetonitrile 95:5→2:98).

reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(1-methoxymethyl-cyclopent-1-yloxy)-benzyl]-benzene | 0.39 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)OC1(CCCC1)COC | C34H41ClO12
reactant | pyrrolidine | 0.22 mL | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methoxymethyl-cyclopent-1-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1(CCCC1)COC | C26H33ClO8
